US07696223B2
b) [(7-Hydroxy-2-pyridin-3-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-pyridin-3-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (27 mg, 0.09 mmol) and glycine (169 mg, 1.80 mmol) in 0.5 M sodium methoxide/methanol (4.5 mL) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. It was dissolved in water (15 mL) and extracted twice with methyl t-butyl ether. The remaining aqueous layer was acidified to pH=3 with 1N HCl (3.3 mL). The solid precipitate was filtered, washed with water and dried in vacuo to give the title compound as a yellow solid (17 mg): 1H NMR (DMSO-d6, 200 MHz): δ=9.56 (br s, 1H), 9.34 (s, 1H), 8.94 (s, 1H), 8.80 (d, 1H), 8.53 (m, 1H), 7.66 (m, 1H), 4.03 (d, J=5.8 Hz, 2H); MS: (+) m/z 331.00 (M+1).

reactant | 7-hydroxy-2-pyridin-3-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.09 mmol, 27 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC=CC2)O | C14H11N3O3S
reactant | glycine | 1.80 mmol, 169 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 4.5 mL | C[O-].[Na+].CO
product | [(7-Hydroxy-2-pyridin-3-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 17 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)N=C(S2)C=2C=NC=CC2 | C14H10N4O4S
